US05013841
A mixture of 3.0 g of 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 2.5 g of 2-methylpiperazine and 30 ml of pyridine was heated under reflux for 5 hours. The reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the solution was acidified with acetic acid and treated with activated charcoal. It was then neutralized with aqueous ammonia. The crystals which precipitated were collected by filtration to give 2.9 g of 5-benzylamino-1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. m.p. 129°-130° C.

reactant | 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 3.0 g | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C20H16F2N2O3
reactant | 2-methylpiperazine | 2.5 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-benzylamino-1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 2.9 g | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=CC(=C1F)N1CC(NCC1)C)C1CC1)C(=O)O)=O | C25H27FN4O3
